US07501518B2
5-Fluoro-2-methyl-benzoic acid (0.29 g, 1.9 mmol) was dissolved in anhydrous MeOH (7 mL) and c. H2SO4 (0.12 mL, 2.3 mmol) was added, heating to reflux for 16 hours. The solution was cooled to room temperature and partitioned between EtOAc (15 mL) and brine (10 mL). After separating, the aqueous phase was extracted with EtOAc (2×10 mL), dried (MgSO4), filtered, and concentrated under reduced pressure to afford 5-fluoro-2-methyl-benzoic acid methyl ester as a pale brown liquid (0.25 g, 78%).

reactant | 5-Fluoro-2-methyl-benzoic acid | 1.9 mmol, 0.29 g | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
reactant | H2SO4 | 2.3 mmol, 0.12 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 7 mL | CO | CH4O
product | 5-fluoro-2-methyl-benzoic acid methyl ester | 0.25 g, 78% | COC(C1=C(C=CC(=C1)F)C)=O | C9H9FO2
